US04558155
2-(3,4-Dichlorophenoxy)-N-(1-methylethyl)ethanamine, Hydrochloride
A solution of 36.18 g. (0.135 mole) of 2-bromoethyl-3,4-dichlorophenyl ether and 31.8 g (0.54 mole) of isopropyl amine in 200 ml of chloroform was heated at reflux for 72 hours. Solvent was removed in a rotary evaporated and the residue partitioned between water and chloroform. The chloroform layer was extracted with 1N sulfuric acid. The aqueous phase, which contained a dispersed white solid, was made alkaline with 10% aqueous hydroxide solution and extracted with chloroform. The chloroform layer was concentrated under vacuum to an oil, the free base. A portion of the oil was dissolved in methanol and treated with ethereal hydrogen chloride. The precipitate was recrystallized from methanol-diethyl ether. Overall yield of white crystalline product was 62.4% of theory based on the proportion taken. The melting point was 186°-187° C.

reactant | 2-bromoethyl-3,4-dichlorophenyl ether | 0.135 mole | BrCCC1=C(C=CC(=C1Cl)Cl)OC1=C(C(=C(C=C1)Cl)Cl)CCBr | C16H12Br2Cl4O
reactant | isopropyl amine | 0.54 mole, 31.8 g | C(C)(C)N | C3H9N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4-Dichlorophenoxy)-N-(1-methylethyl)ethanamine, Hydrochloride | Cl.ClC=1C=C(OCCNC(C)C)C=CC1Cl | InChI=1S/C11H15Cl2NO.ClH/c1-8(2)14-5-6-15-9-3-4-10(12)11(13)7-9;/h3-4,7-8,14H,5-6H2,1-2H3;1H
